* NGSPICE file created from ZeroToFiveCounter.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfrtp_1 abstract view
.subckt sky130_fd_sc_hd__dfrtp_1 CLK D RESET_B VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_4 abstract view
.subckt sky130_fd_sc_hd__clkbuf_4 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfrtp_2 abstract view
.subckt sky130_fd_sc_hd__dfrtp_2 CLK D RESET_B VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlygate4sd3_1 abstract view
.subckt sky130_fd_sc_hd__dlygate4sd3_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_1 abstract view
.subckt sky130_fd_sc_hd__nand3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4b_1 abstract view
.subckt sky130_fd_sc_hd__or4b_1 A B C D_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

.subckt ZeroToFiveCounter VGND VPWR clk count[0] count[1] count[2] count[3] rst
XFILLER_0_9_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_1_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_9_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_4_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_1_31 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_29_ clknet_1_1__leaf_clk _03_ _07_ VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__dfrtp_1
Xclkload0 clknet_1_1__leaf_clk VGND VGND VPWR VPWR clkload0/X sky130_fd_sc_hd__clkbuf_4
X_28_ clknet_1_0__leaf_clk _02_ _06_ VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__dfrtp_1
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_27_ clknet_1_1__leaf_clk net8 _05_ VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__dfrtp_1
XFILLER_0_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_26_ clknet_1_0__leaf_clk _00_ _04_ VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__dfrtp_2
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_4_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_4_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_4_56 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_25_ net1 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__inv_2
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__clkbuf_16
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_24_ net1 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__inv_2
XFILLER_0_7_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_1_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_23_ net1 VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_22_ net1 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__inv_2
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_21_ net6 _10_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__xnor2_1
XFILLER_0_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_2_50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_20_ _12_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__clkbuf_1
Xinput1 rst VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__clkbuf_2
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_0__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_0__leaf_clk sky130_fd_sc_hd__clkbuf_16
XFILLER_0_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_2_58 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xhold1 net5 VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__dlygate4sd3_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_58 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xhold2 net2 VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__dlygate4sd3_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_19_ _08_ _10_ _11_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__and3_1
XFILLER_0_8_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xhold3 _01_ VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__dlygate4sd3_1
X_18_ net3 net2 net4 VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__a21o_1
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_17_ net3 net2 net4 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__nand3_1
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_16_ net3 net7 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__xor2_1
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_0_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_1__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_1__leaf_clk sky130_fd_sc_hd__clkbuf_16
X_15_ _09_ VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__clkbuf_1
XFILLER_0_0_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_14_ net2 _08_ VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__and2b_1
XFILLER_0_6_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_13_ net3 net2 net5 net4 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__or4b_1
XFILLER_0_6_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_3_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_3_44 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput2 net2 VGND VGND VPWR VPWR count[0] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_3_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput3 net3 VGND VGND VPWR VPWR count[1] sky130_fd_sc_hd__buf_2
XFILLER_0_0_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput4 net4 VGND VGND VPWR VPWR count[2] sky130_fd_sc_hd__clkbuf_4
XFILLER_0_6_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_6_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput5 net5 VGND VGND VPWR VPWR count[3] sky130_fd_sc_hd__buf_2
XFILLER_0_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_37 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

